Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Compazine
 
Attending: ___
 
Chief Complaint:
seizure 
 
Major Surgical or Invasive Procedure:
Lumbar puncture
 
History of Present Illness:
The patient is a ___ year old female with a pmhx of RLE DVT S/p
thrombectomy c/b compartments syndrome and subsequent fasciotomy
in ___, chronic RLE pain, HCV s/p Harvoni who presents with
seizure.

Patient reports two weeks of worsening RLE pain in the setting 
of
medication change (lyrica to generic lyrica) due to insurance
issues. This prompted multiple trips to pain clinic and
ultimately a trip to the ED ___ pm. She was evaluated and given 
a
prescription for oxycodone with three pills and went home. She
reports a sleepless night due to right leg pain and an early 
trip
to the pharmacy this morning. She reports that her last memory
was shopping for toilet paper when she woke up at ___.

In addition to the RLE pain, the patient has had insomnia,
headache, light sensitivity, trouble walking, and fatigue over
the past few weeks. She reports that she went to urgent care on
___ with these complaints and was given a prescription of 
"12"
ambiens. She remembers taking two of them, but now reports the
entire bottle is empty.

The headache she reports as being an odd thing for her, as she
does not usually get headaches. The headache has come and gone
over the past two weeks, but is worse when is not sleeping well.
She did have a headache this morning when she was at the
pharmacy.

Additionally, she reports feeling unsteady. At baseline, she 
uses
a cane intermittently, but felt that she had to use it this
morning to be safe. 

On neurologic review of systems, the patient deniesconfusion.
Denies difficulty with producing or comprehending speech. Denies
loss of vision, blurred vision, diplopia, vertigo, tinnitus,
hearing difficulty, dysarthria, or dysphagia. Denies focal 
muscle
weakness, numbness, parasthesia. Denies loss of sensation. 
Denies
bowel or bladder incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
DVT s/p thrombectomy c/b compartment syndrome and fasciotomy in
___
Hepatitis C s/p Harvoni
HTN
 
Social History:
___
Family History:
No family history of stroke or seizure

 
Physical Exam:
PHYSICAL EXAMINATION on Admission:
====================
Vitals: HR 100 BP 170/100 RR 20 Pox 100 on ra
General: sleepy, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, lateral tongue
laceration and bruising
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Sleepy but alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
but slowly and with one mistake. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. Able to name third with multiple choice but not
category. There was no evidence of apraxia or neglect.
-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam was technically difficult but revealed no papilledema,
exudates, or hemorrhages in the left eye. Right eye not able to
visualize
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. When asked to touch the location the
examiner touches on the opposite side, the patient consistently
misses by >1 inch.  No extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.
-Coordination: Patient missed her nose bilaterally with eyes
closed on FNF. Normal with eyes opened. HKS normal. 
-Gait: Assumes a broad base upon standing. With feet together,
she is steady. With eyes closed, fell 4 times to the left. 

Physical Exam at time of discharge:
Walking around the floor,
Vitals: HR 98.8 HR 79  BP 132/86 RR 18 O2Saturation 94% RA 

General: Mostly cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, lateral tongue
laceration and bruising, questionable R NLFF. 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, 
Abdomen: soft, 
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status:  alert, oriented x 3. Three word recall.  Blue
car sad, patient able to repeat blue car sadness, able to recall
1 word, then none, then 2 with prompt.   Able to relate history
without difficulty, but not clear on how many meds were taken.
Attentive. Language is fluent with difficulty with no and ifs 
sos
or buts.   comprehension intact.  Knows current events.  Pt was
able to name both high and low frequency objects.    Speech was
not dysarthric. Able to follow both midline and appendicular
commands.   There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2.5 mm. EOMI without nystagmus.
Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
Patients exam of lower extremites limited by pain and giveway.  
  Delt Bic Tri WrE FFl FE IO IP TA ___
L  5    ___   ___  5   5     5     5   5
R  5    ___   ___  5   5     5     5   5
-Sensory: No deficits to light touch, 

-DTRs: ___ mostly due to pain, but allowed L tri 2, and R 
Bi
which was 2 as well.  

-Coordination: Differed.  
-Gait: Assumes a broad base upon standing. Walks while leaning
forward.  
 
Pertinent Results:
LABORATORY DATA:
================

___ 09:29AM BLOOD WBC: 6.2 RBC: 4.25 Hgb: 13.0 Hct: 37.8
MCV: 89 MCH: 30.6 MCHC: 34.4 RDW: 13.3 RDWSD: 43.___* 
___ 09:29AM BLOOD Neuts: 68.1 Lymphs: ___ Monos: 7.1 Eos:
1.1 Baso: 0.5 Im ___: 0.5 AbsNeut: 4.19 AbsLymp: 1.40 AbsMono:
0.44 AbsEos: 0.07 AbsBaso: 0.03 
___ 11:49AM BLOOD ___: 11.0 PTT: 24.6* ___: 1.0 
___ 05:25PM BLOOD Glucose: 75 UreaN: 15 Creat: 0.7 Na: 141
K: 3.5 Cl: 103 HCO3: 22 AnGap: 16 
___ 05:25PM BLOOD Glucose: 75 UreaN: 15 Creat: 0.7 Na: 141
K: 3.5 Cl: 103 HCO3: 22 AnGap: 16 
___ 09:29AM BLOOD ALT: 36 AST: 45* AlkPhos: 116* TotBili:
0.5 
___ 09:29AM BLOOD cTropnT: <0.01 
___ 09:29AM BLOOD Albumin: 4.3 Calcium: 9.3 Phos: 3.6 Mg:
1.6 
___ 09:29AM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG ___ 11:00AM URINE bnzodzp: NEG barbitr: NEG
opiates: NEG cocaine: NEG amphetm: NEG oxycodn: POS* mthdone:
POS* 
___ 11:00AM URINE Blood: NEG Nitrite: NEG Protein: TR*
Glucose: TR* Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.0 
Leuks:
NEG 
___ 05:08PM CEREBROSPINAL FLUID (CSF) TNC: 2 RBC: 8* Polys:
1 Lymphs: ___ Monos: ___ 05:08PM CEREBROSPINAL FLUID (CSF) TotProt: 31 Glucose:
69 
___ 5:08 pm CSF;SPINAL FLUID      CSF TUBE#3. 
  
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method,
      please refer to hematology for a quantitative white blood
      cell count, if applicable. 

   FLUID CULTURE (Preliminary): 
  
   URINE CULTURE (Pending): 
 

IMAGING:
========
CT Head w/o Contrast
--------------------
IMPRESSION:  
  
Moderate right frontal parietal scalp hematoma. 
No evidence of fracture, intracranial hemorrhage or recent
infarct. 
Probable left subinsular white matter chronic infarction. 
  
MRI Brain final read pending, with bilateral basal ganglia
changes.  
 
Brief Hospital Course:
Ms. ___ is a ___ woman with history notable for RLE 
DVT s/p thrombectomy c/b compartment syndrome s/p fasciotomy, 
chronic right leg pain, and HCV s/p treatment admitted after a 
fall with witnessed convulsions (reportedly lasting ___ minutes) 
followed by confusion raising concerns for seizure. In light of 
several days of poor sleep, possibility of excess zolpidem use 
(as much as 12 doses), and potential for excess pregabalin use, 
unclear whether this episode was a symptomatic seizure related 
to medication overuse or an unprovoked seizure. MRI brain 
completed with bilateral basal ganglia T2 hyperintensities, 
interpreted by radiology as a chronic left basal ganglia infarct 
(though unclear if related to prior history of childhood 
meningitis). Aspirin initiated for secondary stroke prevention. 
Lumbar puncture without evidence of CNS infectious or 
inflammatory process. EEG recommended to assist with risk 
stratification for future seizures, but declined by patient due 
to claustrophobia. Accordingly, recommended empiric initiation 
of antiseizure medication to prevent recurrent seizure, but 
again declined by patient, who expressed understanding of risks 
of recurrent seizures and accompanying injuries. Outpatient 
follow-up with Neurology also offered and declined, but clinic 
number provided to patient. Patient informed of ___ 
___ statutes regarding cessation of driving for at least six 
months of seizure freedom and subsequent clearance by a 
neurologist.

TRANSITIONAL ISSUES
1. Consider routine EEG if able in the outpatient setting.
2. Recommend outpatient Neurology follow-up.
3. Follow up HbA1c, lipid panel to guide interventions for 
secondary stroke prevention.
4. Would avoid further use of zolpidem or related medications 
for insomnia.
5. Continue outpatient pain management follow-up with careful 
titration of sedating medications.
6. Infarcts on imaging likely microvascular, but could consider 
14 days of cardiac monitoring as outpatient to evaluate for 
underlying atrial fibrillation.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? () Yes (LDL = ) - (x) No [Pending at time of 
patient-requested discharge]
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [LDL 
pending]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? [patient at baseline functional 
status]
9. Discharged on statin therapy? () Yes - (x) No [LDL pending at 
time of discharge]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 5 mg PO QHS 
2. Pregabalin 50 mg PO TID 
3. TraMADol 50 mg PO TID:PRN Pain - Moderate 
4. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 (One) tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Pregabalin 50 mg PO TID  
4.  TraMADol 50 mg PO TID:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Suspected seizure
2. Chronic left basal ganglia infarct
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after a fall and convulsions 
that was concerning for a seizure. You had an MRI of your brain 
which showed signs of an old stroke in the deep part of your 
brain. You also had a spinal tap which did not show signs of an 
infection or inflammation in your brain. We recommended an EEG 
to assess your risk of future seizures but you felt that you 
would not be able to tolerate the procedure; we therefore 
recommended starting an anti-seizure medication to reduce your 
risk of future seizures, but you also declined to start this 
medication.

Please follow up with your primary care provider within one week 
of discharge; a number of laboratory tests were still pending at 
time of your discharge (including cholesterol and average blood 
sugar levels) that will need to be followed up by your primary 
care provider. We offered follow-up with Neurology, but you 
declined an appointment at this time; please feel free to call 
___ to set up an appointment.

As per ___, please refrain from driving until 
seizure-free for six months and cleared by a neurologist.

It was a pleasure taking care of you at ___.

Sincerely,
___ Neurology
 
Followup Instructions:
___